US09353107B2
Step-viii: 5-bromo-6-cyclopropyl-1H-pyrrolo[2,3-b]pyridine
A stirred solution of 5-bromo-6-cyclopropyl-2-(trimethylsilyl)-1H-pyrrolo[2,3-b]pyridine (1.5 g, 4.84 mmol), tert-butanol (15 mL), 9N-hydrochloric acid (15 mL) was heated to reflux for 8 hours. Reaction mixture was cooled and basified with 50% sodium hydroxide to pH 8, extracted with ethyl acetate. Organic portion was in turn washed with brine, dried over sodium sulfate and concentrated to give 910 mg (79.13% yield) of the title compound. 1H NMR (CDCl3, 300 MHz) δ 9.43 (bs, 1H), 8.06 (s, 1H), 6.39-6.38 (m, 1H), 2.647-2.603 (m, 1H), 1.09-1 (m, 4H). LCMS: m/z=237.0 (M+1).

reactant | 5-bromo-6-cyclopropyl-2-(trimethylsilyl)-1H-pyrrolo[2,3-b]pyridine | 4.84 mmol, 1.5 g | BrC=1C=C2C(=NC1C1CC1)NC(=C2)[Si](C)(C)C | C13H17BrN2Si
reactant | hydrochloric acid | 15 mL | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tert-butanol | 15 mL | C(C)(C)(C)O | C4H10O
product | 5-bromo-6-cyclopropyl-1H-pyrrolo[2,3-b]pyridine | 910 mg, 79.13% yield | BrC=1C=C2C(=NC1C1CC1)NC=C2 | C10H9BrN2
